US06198008B1
Preparation of 5-Bromo-2-fluorobenzeneboronic Acid
A solution of lithium diisopropylamide (165 mL of a 2.0 M solution in tetrahydrofuran, 0.33 mol) in tetrahydrofuran (600 mL) at −70° C. is treated with 1-bromo-4-fluorobenzene (33.0 mL, 0.30 mol), stirred at −70° C. for 90 minutes and added to a solution of trimethyl borate (41.0 mL, 0.36 mol) in diethyl ether (300 mL) at −70° C. The resulting solution is stirred at −70° C. for 15 minutes, warmed to 15° C. over 90 minutes, treated with acetic acid (51.5 mL, 0.9 mol) and water (375 mL), and stirred at room temperature for 30 minutes. The organic layer is separated and the aqueous layer is extracted with ether. The organic extracts are combined with the organic layer and the resulting solution is washed sequentially with 10% hydrochloric acid and brine, dried over anhydrous magnesium sulfate and concentrated in vacuo to give the title product as an off-white solid (65 g, 99% yield).

reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | 1-bromo-4-fluorobenzene | 0.30 mol, 33.0 mL | BrC1=CC=C(C=C1)F | C6H4BrF
reactant | trimethyl borate | 0.36 mol, 41.0 mL | B(OC)(OC)OC | C3H9BO3
reactant | acetic acid | 0.9 mol, 51.5 mL | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 600 mL | O1CCCC1 | C4H8O
solvent | diethyl ether | 300 mL | C(C)OCC | C4H10O
solvent | water | 375 mL | O | H2O
product | 5-Bromo-2-fluorobenzeneboronic Acid | 65 g, 99% yield | BrC=1C=CC(=C(C1)B(O)O)F | C6H5BBrFO2
